US04200641
A mixture of 60 parts of N-(2-aminophenyl)-4-(diphenylmethyl)-1-piperazinepropanamine, 20 parts of methyl (iminomethoxymethyl)carbamate, 42 parts of acetic acid and 450 parts of trichloromethane is stirred and refluxed overnight. The reaction mixture is evaporated and the residue is stirred in water. The latter is decanted and the residue is taken up again in water. The whole is alkalized with a diluted ammonium hydroxide solution and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane, yielding methyl[1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1H-benzimidazol-2-yl]carbamate; mp. 137.8° C.

reactant | N-(2-aminophenyl)-4-(diphenylmethyl)-1-piperazinepropanamine | NC1=C(C=CC=C1)NCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C26H32N4
reactant | methyl (iminomethoxymethyl)carbamate | N=COCNC(OC)=O | C4H8N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | trichloromethane | ClC(Cl)Cl | CHCl3
product | methyl[1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1H-benzimidazol-2-yl]carbamate | COC(NC1=NC2=C(N1CCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)C=CC=C2)=O | C29H33N5O2
